US04769482
B. Preparation 4-(4acetyl-3-hydroxy-2-propylphenoxy)butane nitrile.
A solution of 30.0 g. (91.1 mmoles) of 4-(4-acetyl-3-hydroxy-2-propylphenoxy)butyl bromide and 4.91 g. (100.2 mmoles) of sodium cyanide in 225 ml. of dimethylformamide was heated to 75°-85° C. for about 17 hours. The reaction mixture was cooled to room temperature, filtered, and evaporated in vacuo at 75° C. Cold 0.1N hydrochloric acid was added to the residue, and the residue was extracted into ethyl acetate. The ethyl acetate layer was twice washed with 0.1N hydrochloric acid, dried over sodium sulfate, and evaporated in vacuo to yield 21.02 g. of 4-(4-acetyl-3-hydroxy-2-propylphenoxy)butane nitrile as a dark amber oil which crystallized as it cooled.

reactant | 4-(4-acetyl-3-hydroxy-2-propylphenoxy)butyl bromide | 91.1 mmoles | C(C)(=O)C1=C(C(=C(OCCCCBr)C=C1)CCC)O | C15H21BrO3
reactant | sodium cyanide | 100.2 mmoles | [C-]#N.[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(4acetyl-3-hydroxy-2-propylphenoxy)butane nitrile | C(C)(=O)C1=C(C(=C(OCCCC#N)C=C1)CCC)O | C15H19NO3
